US04319914
Ethyl N-(5-ethyl-7-chloro-4,5,6,7-tetrahydrobenzothiazol-2-yl)-carbamate (0.08 mol) and the dimethyl acetal of 2-allylaminoacetaldehyde (30 ml.) are charged into a glass reaction vessel equipped with a stirrer, reflux condenser and gas addition tube. The reaction mixture is blanketed with nitrogen gas and is heated at 125° C. for a period of about 8 hours. After this time the reaction mixture is distilled to remove excess starting material. The residue is purified by elution chromatography using ethyl acetate as the eluant. The chromatographed solution is then stripped of solvent to yield the desired product dimethyl acetal of 2-[1-allyl-3-(5-ethyl-7-chloro-4,5,6,7-tetrahydrobenzothiazol-2-yl)ureido]acetaldehyde.

reactant | Ethyl N-(5-ethyl-7-chloro-4,5,6,7-tetrahydrobenzothiazol-2-yl)-carbamate | 0.08 mol | C(C)C1CC(C2=C(N=C(S2)NC(OCC)=O)C1)Cl | C12H17ClN2O2S
reactant | 2-allylaminoacetaldehyde | 30 ml | C(C=C)NCC=O | C5H9NO
product | 2-[1-allyl-3-(5-ethyl-7-chloro-4,5,6,7-tetrahydrobenzothiazol-2-yl)ureido]acetaldehyde | C(C=C)N(C(=O)NC=1SC2=C(N1)CC(CC2Cl)CC)CC=O | C15H20ClN3O2S
